US09233946B2
2,5-Dichloro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was prepared according to General Procedure 6, described in Example 65, with 2,5-dichlorobenzenesulfonyl chloride (13.5 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 45% yield (8.3 mg). MS (ESI+) calcd mass for C13H9Cl2N5O2S 368.985401, found 368.985761.

reactant | 2,5-dichlorobenzenesulfonyl chloride | 0.055 mmol, 13.5 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 2,5-Dichloro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 45% yield | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C13H9Cl2N5O2S
